US05200415
Synthesis of 2-methyl-3-pyrazolo[1,5-a]pyridine -carboxylic acid
A small amount of methanol was added to a solution of 0.356 g of ethyl 2-methyl-3-pyrazolo[1,5-a]-pyridinecarboxylate in 10 ml of 5N aq. NaOH solution, followed by stirring at room temperature for 24 hours. The reaction mixture was washed with benzene and then made acidic with concentrated hydrochloric acid. Crystals precipitated were collected by suction filtration. The crystals so obtained were dried and then recrystallized from benzene, whereby 0.16 g of the title compound was obtained (yield: 52.4%).

reactant | methanol | CO | CH4O
reactant | ethyl 2-methyl-3-pyrazolo[1,5-a]-pyridinecarboxylate | 0.356 g | CC1=NN2C(C=CC=C2)=C1C(=O)OCC | C11H12N2O2
solvent | NaOH | 5N, 10 ml | [OH-].[Na+]
product | 2-methyl-3-pyrazolo[1,5-a]pyridine -carboxylic acid | 0.16 g, yield: 52.4% | CC1=NN2C(C=CC=C2)=C1C(=O)O | C9H8N2O2
